US08980888B2
<Step 1> Synthesis of methyl 4-(4-(difluoromethyl)-5-vinylthiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate
Potassium trifluorovinylborate (172 mg), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride (31 mg), and triethylamine (59.4 μl) were added to an ethanol (2.1 ml) solution of the methyl 4-(5-bromo-4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate (150 mg) obtained in (Example 1.4) <Step 1>, and the obtained mixture was then stirred in a nitrogen atmosphere at 100° C. for 17 hours. Thereafter, potassium trifluoro(vinyl)borate (342 mg), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride (62 mg), and triethylamine (59.4 μl) were added to the reaction solution, and the obtained mixture was stirred again in a nitrogen atmosphere at 100° C. for 2 hours 40 minutes. Thereafter, ethyl acetate (100 ml) and a saturated saline (50 ml) were added to the reaction solution. An organic layer was extracted, and was then dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure, and the obtained residue was then purified by silica gel column chromatography (silica gel:eluent; heptane:ethyl acetate=95:5-50:50), so as to obtain the title compound (74 mg) in the form of a colorless solid.

reactant | Potassium trifluorovinylborate | 172 mg | FC(=C(F)F)OB([O-])[O-].[K+].[K+]
reactant | methyl 4-(5-bromo-4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate | 150 mg | BrC1=C(N=C(S1)C=1C=NN(C1C(=O)OC)C)C(F)F | C10H8BrF2N3O2S
reactant | potassium trifluoro(vinyl)borate | 342 mg | [B-](C=C)(F)(F)F.[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride | 31 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride | 62 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 59.4 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2.1 ml | C(C)O | C2H6O
solvent | triethylamine | 59.4 μl | C(C)N(CC)CC | C6H15N
product | methyl 4-(4-(difluoromethyl)-5-vinylthiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate | 74 mg | FC(C=1N=C(SC1C=C)C=1C=NN(C1C(=O)OC)C)F | C12H11F2N3O2S
